US08937150B2
4-(3,5-dimethylpiperidin-1-yl)-3,5-difluoroaniline
1-(2,6-Difluoro-4-nitrophenyl)-3,5-dimethylpiperidine (14.01 g, 51.8 mmol) and THF (240 mL) were added to Raney-nickel 2800, water slurry (14.01 g, 239 mmol) in a 500 mL stainless steel pressure bottle. The mixture was stirred for 8 hours at 30 psi and room temperature. The mixture was filtered through a nylon membrane and concentrated to give the title compound.

reactant | 1-(2,6-Difluoro-4-nitrophenyl)-3,5-dimethylpiperidine | 51.8 mmol, 14.01 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CC(CC(C1)C)C | C13H16F2N2O2
reactant | THF | 240 mL | C1CCOC1 | C4H8O
catalyst | Raney-nickel | [Ni] | Ni
solvent | water | O | H2O
product | 4-(3,5-dimethylpiperidin-1-yl)-3,5-difluoroaniline | CC1CN(CC(C1)C)C1=C(C=C(N)C=C1F)F | C13H18F2N2
